US07534797B2
3-Methyl-1-(2-phenyl-quinolin-7-yl)-imidazo[1,5-a]pyrazin-8-ylamine
7-(8-Chloro-3-methyl-imidazo[1,5-a]pyrazin-1-yl)-2-phenyl-quinoline was dissolved in 10.0 mL of 2.0 M NH3 in IPA and 5.0 mL of CH2Cl2. The reaction was heated to 110° C. for 64 h. The salts were filtered off and washed with CH2Cl2. Purified with silica gel column chromatography [Jones Flashmaster, 10 g cartridge, eluting with 1% MeOH: EtOAc] to yield a dark yellow solid; 1H NMR (400 MHz, CDCl3) δ 2.71 (s, 3H), 5.61 (brs, 2H), 7.13 (d, 1H, J=5.1 Hz), 7.2 (d, 1H, J=5.1 Hz), 7.48-7.56 (m, 3H), 7.89-7.97 (m, 3H), 8.18-8.21 (m, 2H), 8.27 (d, 1H, J=8.6 Hz), 8.39 (s, 1H); MS (ES+): 352.06 (M+1), 353.07 (M+2), 354.09 (M+3).

reactant | 7-(8-Chloro-3-methyl-imidazo[1,5-a]pyrazin-1-yl)-2-phenyl-quinoline | ClC=1C=2N(C=CN1)C(=NC2C2=CC=C1C=CC(=NC1=C2)C2=CC=CC=C2)C | C22H15ClN4
reactant | NH3 | 2.0 M, 10.0 mL | N | H3N
solvent | IPA | CC(C)O | C3H8O
solvent | CH2Cl2 | 5.0 mL | C(Cl)Cl | CH2Cl2
product | 3-Methyl-1-(2-phenyl-quinolin-7-yl)-imidazo[1,5-a]pyrazin-8-ylamine | CC1=NC(=C2N1C=CN=C2N)C2=CC=C1C=CC(=NC1=C2)C2=CC=CC=C2 | C22H17N5
